US06358993B1
Preparation of 1-Naphthylcyanamide
Cyanogen bromide (4.4 gm, 41.9 mmol) was added in portions to the stirred and ice-bath cooled solution of 1-aminonaphthalene (10.0 gm, 69.8 mmol) in toluene (100 mL). After 0.5 hour, the cooling bath was removed the reaction mixture was stirred at room temperature for 12 hours. The precipitate was filtered and the solid was triturated with water (150 mL) for 0.5 hour. The resulted solid was filtered and washed with water (4×20 mL) and the solid was dried in vacuum oven at 40° C. This material (4.6 gm) was used as such without any further purification.

reactant | Cyanogen bromide | 41.9 mmol, 4.4 gm | N#CBr | CBrN
reactant | 1-aminonaphthalene | 69.8 mmol, 10.0 gm | NC1=CC=CC2=CC=CC=C12 | C10H9N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Naphthylcyanamide | C1(=CC=CC2=CC=CC=C12)NC#N | C11H8N2
